US04814346
As example 26, but using 7-hydroxy-8-methyl-3-(4-methoxyphenyl)-4H-1-benzopyran-4-one (28 mg) instead of 7-hydroxy-8-methyl-3-(4-methylphenyl)-4H-1-benzopyran-4-one. A crystalline precipitate is formed when water is added; it is filtrated off and washed with water. 3,4-Dihydro-7-hydroxy-8-methyl-3-(4-methoxyphenyl)-2H-1-benzopyran is obtained; m.p. 140°-141°.

reactant | 7-hydroxy-8-methyl-3-(4-methoxyphenyl)-4H-1-benzopyran-4-one | 28 mg | OC1=C(C2=C(C(C(=CO2)C2=CC=C(C=C2)OC)=O)C=C1)C | C17H14O4
solvent | water | O | H2O
product | 3,4-Dihydro-7-hydroxy-8-methyl-3-(4-methoxyphenyl)-2H-1-benzopyran | OC1=C(C2=C(CC(CO2)C2=CC=C(C=C2)OC)C=C1)C | C17H18O3
